US09284286B2
To a solution of 3-chloro-pyridine-4-carboxylic acid methyl ester (0.28 g, 1.65 mmol) in DMF (10 ml) are added cesium carbonate (2.68 g, 8.25 mmol) and 3,3-difluoro-3-(4-fluorophenyl)-propane-1-thiol (synthesized according to the methods described in sections a) and b) of example 3) (0.34 g, 1.65 mmol) in a sealed tube. The reaction mixture is stirred at 90° C. for 1 h. After completion of the reaction, the mixture is diluted with water (15 ml) and extracted with EtOAc (3×20 ml). The organic layer is washed with water (20 ml), brine (20 ml), dried over anhydrous sodium sulfate and evaporated to get the crude product, which is purified by column chromatography (silica gel, 10% acetone/hexane) to yield 3-[[3,3-difluoro-3-(4-fluorophenyl)-propyl]sulfanyl]-pyridine-4-carboxylic acid methyl ester (0.19 g, 0.56 mmol, 34%).

reactant | 3-chloro-pyridine-4-carboxylic acid methyl ester | 1.65 mmol, 0.28 g | COC(=O)C1=C(C=NC=C1)Cl | C7H6ClNO2
reactant | cesium carbonate | 8.25 mmol, 2.68 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3,3-difluoro-3-(4-fluorophenyl)-propane-1-thiol | FC(CCS)(C1=CC=C(C=C1)F)F | C9H9F3S
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 15 ml | O | H2O
product | 3-[[3,3-difluoro-3-(4-fluorophenyl)-propyl]sulfanyl]-pyridine-4-carboxylic acid methyl ester | 0.56 mmol, 0.19 g, 34% | COC(=O)C1=C(C=NC=C1)SCCC(C1=CC=C(C=C1)F)(F)F | C16H14F3NO2S
